US04202977
(1) 2-Dichloromethyl-s-triazolo[1,5-a]pyridine
A solution of 24 g of 1,2-diaminopyridinium iodide and 6.6 g. of sodium hydroxide in 200 ml of ethanol was stirred at 50°-60° C. for 1 hour. To the reaction mixture was added 17.2 g of methyl dichloroacetate and the mixture was refluxed with stirring for 4 hours. The mixture was concentrated under reduced pressure, water was added and extracted with chloroform.

reactant | 1,2-diaminopyridinium iodide | 24 g | [I-].N[N+]1=C(C=CC=C1)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl dichloroacetate | 17.2 g | ClC(C(=O)OC)Cl | C3H4Cl2O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-Dichloromethyl-s-triazolo[1,5-a]pyridine | ClC(C1=NN2C(C=CC=C2)=N1)Cl | C7H5Cl2N3
